US06031014
Into a 100 mL round bottom flask equipped with a magnetic stirrer and reflux condenser were placed 16.0 g (0.1 mol) methyl octyl sulfide (obtained from the Aldrich Chemical Co.), 19.9 g (0.1 mol) phenacyl bromide, 25.87 g (0.1 mol) sodium hexafluoroantimonate and 40 mL acetone. The reaction mixture was brought to reflux and held at this temperature for 15 minutes. The mixture was filtered through a plug of glass wool (to remove the sodium bromide which was formed during the reaction) and the solvent was removed on a rotary evaporator, leaving 43.1 g (83.6% yield) of the desired methyl octylphenacylsulfonium hexafluoroantimonate as a tan colored solid. The product was further purified by recrystallization, first from a 1:3 mixture of water and ethanol, then, isopropanol. The pure, colorless, crystalline initiator had a melting point of 75-76° C. The initiator was soluble in a wide variety of common solvents such as acetone, methyl ethyl ketone, chloroform and methylene chloride.

reactant | methyl octyl sulfide | 0.1 mol, 16.0 g | C(CCCCCCC)SC | C9H20S
reactant | phenacyl bromide | 0.1 mol, 19.9 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | sodium hexafluoroantimonate | 0.1 mol, 25.87 g | F[Sb-](F)(F)(F)(F)F.[Na+]
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | methyl octylphenacylsulfonium hexafluoroantimonate | 43.1 g, 83.6% yield | F[Sb-](F)(F)(F)(F)F.C[S+](CC(=O)C1=CC=CC=C1)CCCCCCCC | InChI=1S/C17H27OS.6FH.Sb/c1-3-4-5-6-7-11-14-19(2)15-17(18)16-12-9-8-10-13-16;;;;;;;/h8-10,12-13H,3-7,11,14-15H2,1-2H3;6*1H;/q+1;;;;;;;+5/p-6
